US04863920
13.50 g of an equimolar mixture of chloromethyltriphenylphosphonium chloride and sodium amide were stirred for 15 minutes with 50 ml of tetrahydrofuran, whereby the temperature rose to 42°. 6.2 g (25.7 mmol) of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde were then added portionwise thereto, the mixture was stirred at room temperature for a further hour, filtered and the filtrate was evaporated. After chromatography of the residue on silica gel while eluting with cyclohexane/ether/isopropanol (3:3:1) there was obtained 3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one of melting point 197°-199°.

reactant | chloromethyltriphenylphosphonium chloride | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium amide | [NH2-].[Na+]
reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 25.7 mmol, 6.2 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C=O | C13H11N3O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[(Z)-2-chlorovinyl]-4,5-dihydro-5-methyl-6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | Cl\C=C/C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C14H12ClN3O
